Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
sternal fracture 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ restrained driver presents after MVC. Pt was going 30mph and 
hit from the side. No damage to the driver's compartment, 
airbags deployed, no headstrike or LOC and she self-extracted. 
Transferred from OSH with a sternal fracture and right breast 
contusion. She remembers all the details associated with the 
event and only reports ___ pain over her sternum. 

 
Past Medical History:
PMH: 
T2D, HTN, Brugada, Basal Cell Carcinoma, Thyroiditis,
Arthritis

PSH: 
open appy ___ ago

 
Social History:
___
Family History:
NC
 
Physical Exam:
T:97.5 P:88 BP:126/78 RR:18 O2sat:95%RA 
GCS 15 
General: awake, alert, NAD
HEENT: small nasal abrasion, EOMI, anicteric
Heart: RRR, NMRG
Lungs: Tender to palpation directly over the sternum, CTAB,
normal excursion, pain with deep inhalation controlled of pain 
meds.
Back: no vertebral tenderness, no CVAT
Abdomen: soft, NT, ND, no mass, no hernia
Neuro: PERRLA, strength intact/symmetric, sensation
intact/symmetric
Extremities: WWP, no tenderness, 2+ B ___, decreased
tone R wrist, normal strength throughout
Skin: no rashes/lesions/ulcers

 
Pertinent Results:
___ 10:00AM   CK-MB-9 cTropnT-<0.01
___ 10:00AM   CK(CPK)-282*
 
Brief Hospital Course:
___ Female s/p MVC who was admitted to the hospital after she was 
reported to be a restrained driver involved in a motor vehicle 
collision.  The patient was admitted to an outside hospital 
where he underwent imaging of the chest which showed a sternal 
fracture with right breast contusion. The patient was 
transferred here for monitoring. His vital signs were stable and 
he was afebrile.  His hematocrit remained stable. Troponin is 
<0.01. She was tolerating a regular diet and voiding without 
difficulty.  Her pain was controlled with oral analgesia.  The 
patient was discharge on HD #1 in stable condition. Of note: she 
has found to have a splenic artery aneurysm measuring 1.1x1.3cm 
incidentally that her PCP informed about it.

 
Discharge Medications:
1. Acetaminophen 1000 mg PO TID 
2. Aspirin 81 mg PO DAILY 
3. Cyclobenzaprine 5 mg PO TID:PRN pain 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Lisinopril 40 mg PO DAILY 
6. MetFORMIN (Glucophage) 850 mg PO DAILY 
7. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4h prn Disp #*40 
Tablet Refills:*1
8. Simvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
sternal fracture and right breast contusion 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* Your injury caused sternal fracture which can cause severe 
pain and subsequently cause you to take shallow breaths because 
of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of fractures.  In order to 
decrease your risk you must use your incentive spirometer 15 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___